US04921960
17.62 g (0.1 mole) of 3-amino-4-quinoline-thiol are dissolved in 50 ml of a 2 molar sodium hydroxide solution, whereupon at a temperature below 40° C. 21.29 g (0.15 mole) of methyl iodide are added. The reaction mixture is stirred at 40° C. for an hour, extracted with chloroform, clarified with activated charcoal and evaporated. Thus 18.6 g of 3-amino-4-methylthio-quinoline are obtained, yield 94.6%, m.p.: 96°-98° C. (from methanol).

reactant | 3-amino-4-quinoline-thiol | 0.1 mole, 17.62 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | methyl iodide | 0.15 mole, 21.29 g | CI | CH3I
solvent | sodium hydroxide | 2 molar | [OH-].[Na+]
product | 3-amino-4-methylthio-quinoline | 18.6 g, yield 94.6% | NC=1C=NC2=CC=CC=C2C1SC | C10H10N2S
